US07799805B2
(4-Chloro-3-cyclopropylaminomethyl-benzyl)-(2,2-difluoro-ethyl)-carbamic acid tert-butyl ester
A mixture of (4-chloro-3-formyl-benzyl)-(2,2-difluoro-ethyl)-carbamic acid tert-butyl ester (563 mg, 1.69 mmol) and cyclopropylamine (0.180 mL, 2.52 mmol) in MeOH (18 mL) was heated to reflux for 4 h. The mixture was allowed to cool to rt. NaBH4 (96 mg, 2.53 mmol) was added by portions, and the reaction was stirred for 1 h. The solvents were removed under reduced pressure, and the resulting oil was diluted with EtOAc. The mixture was washed with aq. sat. NaHCO3 and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (CH2Cl2/MeOH 95:5) yielded the title compound (558 mg, 88%). LC-MS: tR=0.76 min; ES+: 375.17.

reactant | (4-chloro-3-formyl-benzyl)-(2,2-difluoro-ethyl)-carbamic acid tert-butyl ester | 1.69 mmol, 563 mg | C(C)(C)(C)OC(N(CC(F)F)CC1=CC(=C(C=C1)Cl)C=O)=O | C15H18ClF2NO3
reactant | cyclopropylamine | 2.52 mmol, 0.180 mL | C1(CC1)N | C3H7N
reactant | NaBH4 | 2.53 mmol, 96 mg | [BH4-].[Na+]
solvent | MeOH | 18 mL | CO | CH4O
product | (4-Chloro-3-cyclopropylaminomethyl-benzyl)-(2,2-difluoro-ethyl)-carbamic acid tert-butyl ester | 558 mg, 88% | C(C)(C)(C)OC(N(CC(F)F)CC1=CC(=C(C=C1)Cl)CNC1CC1)=O | C18H25ClF2N2O2
